US08067614B2
(1H-Benzoimidazol-2-yl)(2,6-dichlorophenyl)isopropylamine
In analogy to example 1, (1H-benzoimidazol-2-yl)(2,6-dichlorophenyl)amine (250 mg) was dissolved in dimethylformamide (3 ml), deprotonated with sodium hydride (43 mg) and alkylated with isopropyl bromide (111 mg) in a closed vessel at 100° C. for one hour. Workup and chromatography resulted in 21 mg of the desired compound.

reactant | sodium hydride | 43 mg | [H-].[Na+]
reactant | isopropyl bromide | 111 mg | C(C)(C)Br | C3H7Br
reactant | (1H-benzoimidazol-2-yl)(2,6-dichlorophenyl)amine | 250 mg | N1C(=NC2=C1C=CC=C2)NC2=C(C=CC=C2Cl)Cl | C13H9Cl2N3
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (1H-Benzoimidazol-2-yl)(2,6-dichlorophenyl)isopropylamine | 21 mg | N1C(=NC2=C1C=CC=C2)N(C(C)C)C2=C(C=CC=C2Cl)Cl | C16H15Cl2N3
